US06677337B2
Preparation of (4-fluorophenyl)-acetic acid N-methyl-hydrazide (8).
To a −78° C. stirred solution of methyl hydrazine (11 mL, 208.5 mmol) in CH2Cl2 (100 mL) is added dropwise a solution of commercially available 4-fluorophenyl-acetyl chloride (12 g, 69.5 mmol) in CH2Cl2 (200 mL). The reaction mixture is stirred for 2 hours at −78° C. and is then slowly warmed to room temperature. The reaction mixture is filtered and the filtrate concentrated under reduced pressure to give a pale yellow oil. Purification over silica (EtOAc) affords 7.6 g (61% yield) of the desired product: 1H NMR (300 MHz, CDCl3) δ 7.28-7.23 (m, 2H), 6.99-6.92 (m, 2H), 3.87 (s, 2H), 3.190 (s, 2H), 3.11 (s, 3H); ESI/MS: 183.1 (M+H).

reactant | methyl hydrazine | 208.5 mmol, 11 mL | CNN | CH6N2
reactant | 4-fluorophenyl-acetyl chloride | 69.5 mmol, 12 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (4-fluorophenyl)-acetic acid N-methyl-hydrazide | 7.6 g, 61% yield | CN(N)C(CC1=CC=C(C=C1)F)=O | C9H11FN2O
